* source JOHNIE 
V_Vdd         N07490 0 1.88Vdc
M_M7         N07362 N07182 N07230 N07230 NFET  
+ L=1u  
+ W=16u         
M_M8         N07182 N07182 N07230 N07230 NFET  
+ L=1u  
+ W=2.9u         
M_M3         N07596 N07596 N07490 N07490 PFET  
+ L=1u  
+ W=1u         
C_CL         0 N07362  2.27p  TC=0,0 
M_M5         N07140 N07182 N07230 N07230 NFET  
+ L=1u  
+ W=2.9u         
V_Vss         0 N07230 1.88Vdc
M_M1         N07596 N08398 N07140 N07140 NFET  
+ L=1u  
+ W=11u         
M_M2         N07428 0 N07140 N07140 NFET  
+ L=1u  
+ W=11u         
I_IREF         N07490 N07182 DC 49.9u  
C_Cc         N07362 N07428  1.5p  TC=0,0 
M_M6         N07362 N07428 N07490 N07490 PFET  
+ L=1u  
+ W=12u         
M_M4         N07428 N07596 N07490 N07490 PFET  
+ L=1u  
+ W=1u         
V_V1         N08398 0 DC 0Vdc AC 1Vac 
